US04940710
Al mixture of 27.5 g of selenium dioxide, 160 ml of dioxane and 5.5 ml of water was heated at 55° C. until solution was complete. A 31.54 g portion of 2-acetylthiophene was added and the mixture was refluxed for 4 hours, then cooled, filtered and evaporated under reduced pressure. The residue was distilled giving 24.5 g of 2-thiopheneglyoxylaldehyde.

reactant | selenium dioxide | 27.5 g | [Se](=O)=O | O2Se
reactant | dioxane | 160 ml | O1CCOCC1 | C4H8O2
reactant | 2-acetylthiophene | C(C)(=O)C=1SC=CC1 | C6H6OS
solvent | water | 5.5 ml | O | H2O
product | 2-thiopheneglyoxylaldehyde | 24.5 g | S1C(=CC=C1)C(C=O)=O | C6H4O2S
